data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
979,1063,[CH3:16][C:17]#[N+:18][C-:19]([C:20]#[N:21])[C:22]([CH3:23])=[O:24].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([F:8])([F:9])[F:10])[CH:11]2[CH:12]=[CH:13][CH:14]1[O:15]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([C:7]([F:8])([F:9])[F:10])([CH:11]3[CH:12]=[CH:13][CH:14]1[O:15]3)[C:17]([CH3:16])=[N:18][C:19]2([C:20]#[N:21])[C:22]([CH3:23])=[O:24],water,298.15,14.147249240135094,-30.70118730325757
1036,1129,[CH3:1][C:2]#[C:3][C:4](=[O:5])[NH:6][CH3:7].[CH3:8][NH:9][C:10](=[O:11])[C:12]([C:13]#[N:14])=[O+:15][C-:16]([C:17](=[O:18])[NH:19][CH3:20])[C:21](=[O:22])[O:23][CH3:24]>>[CH3:1][C:2]1=[C:3]([C:4](=[O:5])[NH:6][CH3:7])[C:16]([C:17](=[O:18])[NH:19][CH3:20])([C:21](=[O:22])[O:23][CH3:24])[O:15][C:12]1([C:10]([NH:9][CH3:8])=[O:11])[C:13]#[N:14],water,298.15,10.65881233454309,-66.94548963594322
1207,1314,[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7](=[O:8])[NH:9][CH3:10])[CH:11]2[CH:12]=[CH:13][CH:14]1[O:15]2.[CH:16]#[N+:17][C-:18]([C:19]([CH3:20])=[O:21])[C:22](=[O:23])[NH:24][CH3:25]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([C:7](=[O:8])[NH:9][CH3:10])([CH:11]3[CH:12]=[CH:13][CH:14]1[O:15]3)[C:18]([C:19]([CH3:20])=[O:21])([C:22](=[O:23])[NH:24][CH3:25])[N:17]=[CH:16]2,water,298.15,11.473430721792962,-45.50589169217643
4131,4731,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][NH:10][C:11](=[O:12])[c:13]1[o:14][c:15](=[O:16])[c-:17]([C:18]([CH3:19])=[O:20])[n+:21]1[CH3:22]>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[C:17]1([C:18]([CH3:19])=[O:20])[C:15](=[O:16])[O:14][C:13]2([C:11]([NH:10][CH3:9])=[O:12])[N:21]1[CH3:22],water,298.15,24.116469586440854,4.047576185142557
3529,4027,[CH3:10][C:11]#[N+:12][N-:13][c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][N:13]([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[N:12]=[C:11]1[CH3:10],water,298.15,22.14805798225183,-31.886793187803345
1260,1376,[CH3:15][O:16][C:17](=[O:18])[c-:19]1[c:20](=[O:21])[o:22][n:23][n+:24]1[CH3:25].[CH3:1][NH:2][C:3](=[O:4])[CH:5]1[C:6]#[C:7][C:8]([CH3:9])([CH3:10])[CH2:11][CH2:12][CH2:13][CH2:14]1>>[CH3:1][NH:2][C:3](=[O:4])[CH:5]1[C:6]2=[C:7]([C:8]([CH3:9])([CH3:10])[CH2:11][CH2:12][CH2:13][CH2:14]1)[C:19]1([C:17]([O:16][CH3:15])=[O:18])[C:20](=[O:21])[O:22][N:23]2[N:24]1[CH3:25],water,298.15,30.90032952891052,2.773337073668241
4106,4699,[CH3:10][O:11][C:12](=[O:13])[C-:14]([N+:15]#[N:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:14]([C:12]([O:11][CH3:10])=[O:13])([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[N:15]=[N:16]1,water,298.15,31.4815696463203,-3.9380980289755017
3847,4403,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[CH-:15][O+:16]=[CH:17][C:18]([CH3:19])=[O:20]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[CH:15]([C:13]([O:12][CH3:11])=[O:14])[O:16][CH:17]2[C:18]([CH3:19])=[O:20],water,298.15,16.519877088945485,-44.951843012276846
192,209,[CH3:1][O:2][C:3]#[C:4][C:5](=[O:6])[O:7][CH3:8].[N:9]#[C:10][C:11]#[N+:12][CH-:13][c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1>>[CH3:1][O:2][C:3]1=[C:4]([C:5](=[O:6])[O:7][CH3:8])[CH:13]([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[N:12]=[C:11]1[C:10]#[N:9],water,298.15,11.315843608156124,-70.2840039605091
3759,4307,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C-:15]([CH3:16])[NH+:17]=[CH:18][C:19]#[N:20]>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:15]([C:13]([NH:12][CH3:11])=[O:14])([CH3:16])[NH:17][CH:18]2[C:19]#[N:20],water,298.15,21.483496670588988,-22.001308787946115
313,340,[CH3:1][C:2]#[C:3][C:4](=[O:5])[NH:6][CH3:7].[CH3:8][O:9][C:10](=[O:11])[C-:12]([NH+:13]=[C:14]([CH3:15])[CH3:16])[C:17]([CH3:18])=[O:19]>>[CH3:1][C:2]1=[C:3]([C:4](=[O:5])[NH:6][CH3:7])[C:14]([CH3:15])([CH3:16])[NH:13][C:12]1([C:10]([O:9][CH3:8])=[O:11])[C:17]([CH3:18])=[O:19],water,298.15,27.384225131807646,-27.31107439768334
2667,2961,[CH3:1][O:2][C:3](=[O:4])[C:5]1([O:6][CH3:7])[C:8]#[C:9][C:10]([C:11]([F:12])([F:13])[F:14])([C:15]([F:16])([F:17])[F:18])[CH2:19][CH2:20][CH2:21][CH2:22]1.[CH3:23][C:24](=[O:25])[CH-:26][N+:27]([CH3:28])=[C:29]([CH3:30])[c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([O:6][CH3:7])[C:8]2=[C:9]([C:10]([C:11]([F:12])([F:13])[F:14])([C:15]([F:16])([F:17])[F:18])[CH2:19][CH2:20][CH2:21][CH2:22]1)[C:29]([CH3:30])([c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1)[N:27]([CH3:28])[CH:26]2[C:24]([CH3:23])=[O:25],water,298.15,35.510590050483216,-22.119638939880424
